US05258542
4,4'-Bis(propargyloxycarbonyloxy)biphenyl
A flask equipped with a stirrer, thermometer, nitrogen gas tube and reflux condenser was charged with 18.6 g of 4,4'-dihydroxybiphenyl and 23.0 g of trimethylamine in 50.0 g of methylene chloride. To the flask was added 26.0 g of propargyl chloroformate dropwise over one hour and the mixture was allowed to react for 6 hours at 30° C. After the reaction, the reaction mixture was treated with methylene chloride-water mixture and the organic phase was separated followed by drying over magnesium sulfate overnight. After filtering, the filtrate was evaporated in a rotary evaporator. The resulting crystals were recrystallized to give the title compound at a yield of 93.6% of theory.

reactant | 4,4'-dihydroxybiphenyl | 18.6 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | trimethylamine | 23.0 g | CN(C)C | C3H9N
reactant | propargyl chloroformate | 26.0 g | ClC(=O)OCC#C | C4H3ClO2
reactant | methylene chloride water | C(Cl)Cl.O
solvent | methylene chloride | 50.0 g | C(Cl)Cl | CH2Cl2
product | 4,4'-Bis(propargyloxycarbonyloxy)biphenyl | yield of 93.6% | C(C#C)OC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)OCC#C | C20H14O6
